US06747053B2
To an oven-dried Schlenk flask that was evacuated and backfilled with argon was added 726 mg (3.68 mmol) of ethyl cis-2-amino-1-cyclohexanecarboxylate HCl salt, 56 mg (0.06 mmol, 2 mol % Pd) of Pd2(dba)3, 77 mg (0.12 mmol, 4 mol %) of rac-BINAP, 881 mg (9.17 mmol) of sodium tert-butoxide, 500 mg (3.06 mmol) of 8-chloroquinoline, and 7.5 mL of toluene. The flask was sealed with a glass stopper and an argon balloon replacing the source. The reaction mixture was then heated to 90° C. and stirred at that temperature for 17 hours. The mixture was allowed to cool to room temperature, taken up in diethyl ether (35 mL), washed three times with saturated brine (30 mL), dried over magnesium sulfate, and concentrated to provide the crude reaction mixture. The crude mixture was re-dissolved in ethyl acetate, partitioned between ethyl acetate and 1N HCl, dried over magnesium sulfate and concentrated to provide 125 mg (15%) of 2-(quinolin-8-ylamino)cyclohexanecarboxylic acid with both cis and trans isomers in 1:1 ratio. Confirmed by 1H NMR.

reactant | ethyl cis-2-amino-1-cyclohexanecarboxylate HCl salt | 3.68 mmol, 726 mg | Cl.N[C@@H]1[C@@H](CCCC1)C(=O)OCC
reactant | rac-BINAP | 0.12 mmol, 77 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 9.17 mmol, 881 mg | CC(C)([O-])C.[Na+]
reactant | 8-chloroquinoline | 3.06 mmol, 500 mg | ClC=1C=CC=C2C=CC=NC12 | C9H6ClN
solvent | diethyl ether | 35 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.06 mmol, 56 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 7.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(quinolin-8-ylamino)cyclohexanecarboxylic acid | 125 mg, 15% | N1=CC=CC2=CC=CC(=C12)NC1C(CCCC1)C(=O)O | C16H18N2O2
